US04751295
C. 2-Cyano-2-methoxyiminoacetamidinium Acetate
To a solution of ammonium chloride (28.4 g 0.53 mole) in 28% aqueous ammonia (355 ml) and ethanol (180 ml) was added dropwise a solution of 2-methoxyiminopropanedinitrile (58.0 g, 0.53 mole) in ethanol (120 ml) at -15° to -10° C. over a period of 30 minutes, with stirring. The mixture was stirred at -10° C. overnight and then at ambient temperature (20°-25° C.) for one day. The reaction mixture was partitioned between water (350 ml) and CH2Cl2 (350 ml), and the aqueous phase was saturated with sodium chloride, and extracted again with CH2Cl2 (300 ml). The organic extracts were combined, dried over MgSO4 and evaporated in vacuo. A solution of the residue in ethyl acetate (1.6 L) was adjusted to pH 3-4 with acetic acid to precipitate the title compound as crystals, which were collected by filtration and washed with ethyl acetate. Yield 67.6 g (69%). M.p. 152°-4° C. (dec.). [Lit., m.p. 150°-155° C. (dec.)].

reactant | ammonium chloride | 0.53 mole, 28.4 g | [Cl-].[NH4+]
reactant | 2-methoxyiminopropanedinitrile | 0.53 mole, 58.0 g | CON=C(C#N)C#N | C4H3N3O
reactant | ethanol | 180 ml | C(C)O | C2H6O
reactant | ethanol | 120 ml | C(C)O | C2H6O
solvent | ammonia | 355 ml | N | H3N
product | 2-Cyano-2-methoxyiminoacetamidinium Acetate | C(C)(=O)[O-].C(#N)C(C(=[NH2+])N)=NOC | InChI=1S/C4H6N4O.C2H4O2/c1-9-8-3(2-5)4(6)7;1-2(3)4/h1H3,(H3,6,7);1H3,(H,3,4)
